US09216980B2
Step 1: 2-Ethyl-6,8-dimethoxy-3,4-dihydroisoquinolinium iodide
Ethyl iodide (0.6 mL, 7.32 mmol) was added to a solution of 6,8-dimethoxy-3,4-dihydroisoquinoline (700 mg, 3.66 mmol) in acetonitrile (15 mL) and the mixture was left to stir in the dark for 20 h. The resultant precipitate was collected by filtration, washed with acetonitrile and left to air dry to afford the title compound as a yellow solid (750 mg, 95%). 1H NMR (CD3OD, 300 MHz): 8.96 (s, 1H), 6.63 (d, J=2.2 Hz, 1H), 6.61 (d, J=2.2 Hz, 1H), 4.02-3.88 (m, 7H), 3.18 (t, J=7.9 Hz, 2H), 2.03 (s, 5H), 1.47 (t, J=7.3 Hz, 3H).

reactant | Ethyl iodide | 7.32 mmol, 0.6 mL | C(C)I | C2H5I
reactant | 6,8-dimethoxy-3,4-dihydroisoquinoline | 3.66 mmol, 700 mg | COC=1C=C2CCN=CC2=C(C1)OC | C11H13NO2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 2-Ethyl-6,8-dimethoxy-3,4-dihydroisoquinolinium iodide | 750 mg, 95% | [I-].C(C)[N+]1=CC2=C(C=C(C=C2CC1)OC)OC | InChI=1S/C13H18NO2.HI/c1-4-14-6-5-10-7-11(15-2)8-13(16-3)12(10)9-14;/h7-9H,4-6H2,1-3H3;1H/q+1;/p-1
